US07592358B2
50.5d. 2-{4-[5-(4-chlorophenyl)pyridin-2-ylethynyl]-2-methylphenyl}ethanol
Under an argon atmosphere 16 mg (0.02 mmol) of PdCl2(dppf) and 4 mg (0.02 mmol) of CuI were added to a repeatedly degassed solution of 940 mg (1.79 mmol) of 2-(4-iodo-2-methylphenyl)ethanol, 383 mg (1.79 mmol) of 5-(4-chlorophenyl)-2-ethynylpyridine (IP 13), and 0.52 mL (3.77 mmol) of triethylamine in 8 mL of acetonitrile and the mixture was stirred overnight at RT. The precipitate was suction filtered and washed with acetonitrile. Yield: 270 mg (43% of theoretical); C22H18ClNO (M=347.837); calc.: molpeak (M+H)+:348/50 (Cl); found: molpeak (M+H)+:348/50 (Cl); HPLC-MS: 6.15 minutes (method H).

reactant | 2-(4-iodo-2-methylphenyl)ethanol | 1.79 mmol, 940 mg | IC1=CC(=C(C=C1)CCO)C | C9H11IO
reactant | 5-(4-chlorophenyl)-2-ethynylpyridine | 1.79 mmol, 383 mg | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#C | C13H8ClN
reactant | triethylamine | 3.77 mmol, 0.52 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 8 mL | C(C)#N | C2H3N
catalyst | PdCl2(dppf) | 0.02 mmol, 16 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | CuI | 0.02 mmol, 4 mg | [Cu]I
product | 2-{4-[5-(4-chlorophenyl)pyridin-2-ylethynyl]-2-methylphenyl}ethanol | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC1=CC(=C(C=C1)CCO)C | C22H18ClNO
